US04093812
Stir 48 g of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxaldehyde together with 22 g of ethyl carbazate, 5 drops of glacial acetic acid and 500 ml of ethanol for 3 hours at 60° C. Add 500 ml of water dropwise to the resulting reaction mixture at room temperature. Vacuum filter and wash the obtained precipitate with ethanol/water and with water. Dry the precipitate and then admix it with toluene at 90° C to obtain a 94% yield of 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxaldehyde-ethoxycarbonylhydrazone [m.p. 200° to 201° C].

reactant | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxaldehyde | 48 g | [N+](=O)([O-])C1=CC=C(O1)C1=NN(C=C1C=O)C1=CC=CC=C1 | C14H9N3O4
reactant | ethyl carbazate | 22 g | C(NN)(=O)OCC | C3H8N2O2
reactant | ethanol | 500 ml | C(C)O | C2H6O
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
solvent | water | 500 ml | O | H2O
product | 3-(5-nitro-2-furyl)-1-phenylpyrazole-4-carboxaldehyde-ethoxycarbonylhydrazone | 94% yield | C(C)OC(=O)NN=CC=1C(=NN(C1)C1=CC=CC=C1)C=1OC(=CC1)[N+](=O)[O-] | C17H15N5O5
